US03952031
A stirred mixture of 3β-toluene-p-sulphonyloxy-5α-pregn-16-ene-11,20-dione (627 g.), potassium acetate (918 g.), dimethylformamide (4.25 l.) and water (425 ml.) was heated on the steam bath for 4 hr. Most of the dimethylformamide was removed under reduced pressure and water was added to the residue with stirring. The solid (420 g.) was collected, washed and dried at 40° in vacuo. This material in peroxide free dioxan (7 l.) was flushed with nitrogen and a solution of potassium hydroxide (200 g.) in water (2 l.) was added. The mixture was stirred and heated at 50°-60° for 7 hr. and then left at room temperature overnight. Acetic acid (50 ml.) was added and the precipitated solid was filtered off, washed with water and dried. The dry solid was heated under reflux with benzene (2 l.) for 2 hr. the mixture cooled and filtered to give 3α-hydroxy-5α-pregn-16-ene-11,20-dione (215 g.).

reactant | 3β-toluene-p-sulphonyloxy-5α-pregn-16-ene-11,20-dione | 627 g | C1(=CC=C(C=C1)S(=O)(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C)C | C28H36O5S
reactant | potassium acetate | 918 g | C(C)(=O)[O-].[K+]
reactant | dimethylformamide | 4.25 l | CN(C=O)C | C3H7NO
solvent | water | 425 ml | O | H2O
product | 3α-hydroxy-5α-pregn-16-ene-11,20-dione | 215 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C21H30O3
